US06737429B2
A solution containing 0.1 g of ethyl 5-(3,5-dichlorophenylsulphanyl)-4-isopropyl-2-methyl-1-pyridin-4-yl-1H-pyrrole-3-carboxylate in 0.5 ml of anhydrous diethyl ether was added dropwise to 0.54 ml of a 1M solution of lithium aluminum hydride which was stirred and cooled at 0-5° C. The mixture was stirred at 5° C. for 1 h then at room temperature for 1 h. The mixture was cooled again to 5° C. and quenched with saturated ammonium chloride solution, then extracted three times with 10 ml of ethyl acetate. The combined extracts were washed with 10 ml of brine, then dried over anhydrous magnesium sulphate, filtered and evaporated. The residue was purified by flash chromatography on silica gel using methanol/dichloromethane (1:19) for the elution to give 70 mg of 5-(3,5-dichlorophenylthio)-4-isopropyl-2-methyl-1-[(4-pyridyl)methyl]-1H-pyrrole-3-methanol as a pale orange gum. Mass spectrum (ESI) m/z 421 [M+H]+. 1H NMR (CDCl3) 1.31 (d, 6H), 2.21 (s, 3H), 3.24 (m, 1H), 4.66 (s, 2H), 5.10 (s, 2H), 6.68 (d, 2H), 6.74 (m, 2H), 6.98 (t, 1H), 8.44 (m, 2H).

reactant | ethyl 5-(3,5-dichlorophenylsulphanyl)-4-isopropyl-2-methyl-1-pyridin-4-yl-1H-pyrrole-3-carboxylate | 0.1 g | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=C(N1C1=CC=NC=C1)C)C(=O)OCC)C(C)C | C22H22Cl2N2O2S
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | diethyl ether | 0.5 ml | C(C)OCC | C4H10O
product | 5-(3,5-dichlorophenylthio)-4-isopropyl-2-methyl-1-[(4-pyridyl)methyl]-1H-pyrrole-3-methanol | 70 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=C(N1CC1=CC=NC=C1)C)CO)C(C)C | C21H22Cl2N2OS
